US04927819
Step D 8 2-Chloro-5-hydroxymethyl-dibenzo[a,d]cycloheptene
To a solution of 2-chloro-5-methylene-dibenzo[a,d]cycloheptene (8.3 g) in dry tetrahydrofuran (30 ml). under an inert atmosphere, was added 9-borabicyclo [3.3.1]nonane (71 ml of a 0.5 molar solution in tetrahydrofuran) at ambient temperature and the reaction mixture was then refluxed for 3 h. After cooling. the reaction was quenched by the slow addition of 2N sodium hydroxide solution (180 ml) and 30% hydrogen peroxide (36 ml). After stirring vigorously at 0° C. for 45 minutes the reaction mixture was allowed to warm to room temperature over a 2 h period then extracted into diethyl ether (3×250 ml). The combined organic layers were washed with brine (1×150 ml), dried (Na2SO4), filtered and concentrated in vacuo to leave a residue which was purified by chromatography on flash silica with 40% ethyl acetate in hexane as eluent to give the title compound (8.1 g) as a colourless oil. δ (360 MHz, CDCl3) 3.80 (2H. d, J=7.9 Hz CH--CH2OH), 4.18 (1H, t, J= 7.9 Hz, CH--CH2OH), 6.76 (1H, d, J=11.9 Hz, CHA =CHB) 6.89 (1H, d, J=11.9 Hz, CHA =CHB), 7.24-7.38 (7H, m, ArH); m/e 258 and 256 (M+)

reactant | 2-chloro-5-methylene-dibenzo[a,d]cycloheptene | 8.3 g | ClC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=C)C=C1 | C16H11Cl
reactant | 9-borabicyclo [3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Chloro-5-hydroxymethyl-dibenzo[a,d]cycloheptene | 8.1 g | ClC1=CC2=C(C(C3=C(C=C2)C=CC=C3)CO)C=C1 | C16H13ClO
